US06642267B2
An excess of an ethereal diazomethane solution was added to a suspension of 5-benzylidene-4-hydroxy-3-nitroso-1,5-dihydro-pyrrol-2-one (prepared by the method of H. Poschenrieder et al (Arch. Pharm. Pharm. Med. Chem. 1998, vol. 331, pp. 389-394) and Stachel et al (J. Heterocycl. Chem. 1980, vol. 17, pp. 1195-1199 and Liebigs Ann. Chem. 1985, pp. 1692-1696)) in methanol. After the vigorous evolution of nitrogen has subsided, the reaction solution is concentrated in vacuo and the residue thus obtained is recrystallized from methanol. Red crystals of 5-benzylidene-4-methoxy-3-nitroso-1,5-dihydropyrrol-2-one with a melting point of 172° C. were obtained in a yield of 90%.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 5-benzylidene-4-hydroxy-3-nitroso-1,5-dihydro-pyrrol-2-one | C(C1=CC=CC=C1)=C1C(=C(C(N1)=O)N=O)O | C11H8N2O3
solvent | methanol | CO | CH4O
product | 5-benzylidene-4-methoxy-3-nitroso-1,5-dihydropyrrol-2-one | yield of 90% | C(C1=CC=CC=C1)=C1C(=C(C(N1)=O)N=O)OC | C12H10N2O3
